US06797726B1
In 30 mL of tetrahydrofuran is dissolved 2.18 g of 5-{2-[2-(diethylamino)ethoxy]ethyl}benzo[b]-thiophene-2-carboxylic acid, to which is added 1.98 g of N,N′-carbonyldiimidazole. The resulting mixture is stirred at ambient temperature for one hour. Then, 50 mL of 25% aqueous ammonia is added to the mixture and the resulting mixture is stirred at ambient temperature for one hour. Ethyl acetate is added to the mixture, the organic layer is separated, washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent:chloroform:methanol to chloroform:methanol:ammonia=5:1 to 100:10:1). Thus, 2.00 g of 5-{2-[2-(diethylamino)ethoxy]ethyl}benzo[b]-thiophene-2-carboxamide is obtained as a colorless crystalline product.

reactant | 5-{2-[2-(diethylamino)ethoxy]ethyl}benzo[b]-thiophene-2-carboxylic acid | 2.18 g | C(C)N(CCOCCC1=CC2=C(SC(=C2)C(=O)O)C=C1)CC | C17H23NO3S
reactant | ammonia | 50 mL | N | H3N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-{2-[2-(diethylamino)ethoxy]ethyl}benzo[b]-thiophene-2-carboxamide | 2.00 g | C(C)N(CCOCCC1=CC2=C(SC(=C2)C(=O)N)C=C1)CC | C17H24N2O2S
